US04874775
N-(2,4-dichlorobenzyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 3.2 g. portion of 3-(2,4-dichlorobenzylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and to it was added 2 g. of potassium carbonate and 1.16 ml. of methanesulfonyl chloride. The mixture was stirred at ambient temperature for several days, and was then extracted twice with 15 ml. portions of water, dried, filtered, and evaporated under vacuum to an oil. The residue was dissolved in chloroform and purified over silica gel, eluting first with chloroform and then with 9:1 chloroform:acetone. The product-containing fractions were combined and evaporated under vacuum to obtain 2.9 g. of impure product, which was triturated with petroleum ether to obtain 2.1 g. of the desired product, m.p. 78°-80°.

reactant | 3-(2,4-dichlorobenzylaminomethyl)pyridine | ClC1=C(CNCC=2C=NC=CC2)C=CC(=C1)Cl | C13H12Cl2N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-dichlorobenzyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | ClC1=C(CN(S(=O)(=O)C)CC=2C=NC=CC2)C=CC(=C1)Cl | C14H14Cl2N2O2S
